US04843082
(D) 1,2,3,4-Tetrahydro-5-(phenylmethyl)-8quinolinol, hydrochloride
A solution of 199.8 mg (0.83 mmol) of 1,2,3,4-tetrahydro-5-(phenylmethyl)-8-quinolinol in 2 ml of dichloromethane was treated with 1 ml of hydrogen chloride-saturated dichloromethane. The addition of 15 ml of hexane resulted in the precipitation of a yellow solid. Microanalysis indicated that this material contained approximately 10% of the free base of the starting material. This mixture was taken up in 1 ml of methanol and treated with 0.5 ml of hydrogen chloride-saturated methanol, then 2 ml of dichloromethane and 10 ml of hexane. Evaporation gave a pale yellow, waxy solid, which was triturated with 5 ml of dichloromethane and 5 ml of hexane. Filtration provided 147.6 mg of the title compound as a pale yellow solid:melting point 219°-221° C. (decomposition 190°-219° C.).

reactant | 1,2,3,4-tetrahydro-5-(phenylmethyl)-8-quinolinol | 0.83 mmol, 199.8 mg | C1(=CC=CC=C1)CC1=C2CCCNC2=C(C=C1)O | C16H17NO
reactant | hydrogen chloride | 1 ml | Cl | ClH
reactant | hexane | 15 ml | CCCCCC | C6H14
reactant | hydrogen chloride | 0.5 ml | Cl | ClH
reactant | hexane | 10 ml | CCCCCC | C6H14
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | methanol | 1 ml | CO | CH4O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1,2,3,4-Tetrahydro-5-(phenylmethyl)-8quinolinol, hydrochloride | 147.6 mg | Cl.C1(=CC=CC=C1)CC1=C2CCCNC2=C(C=C1)O | InChI=1S/C16H17NO.ClH/c18-15-9-8-13(11-12-5-2-1-3-6-12)14-7-4-10-17-16(14)15;/h1-3,5-6,8-9,17-18H,4,7,10-11H2;1H
